US07598257B2
4-(1H-Pyrazol-4-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine (0.025 g, 0.000080 mol) and (3-cyanophenyl)boronic acid (0.023 g, 0.00016 mol) were combined in DMF (1.50 mL, 0.0194 mol). Then copper(II) diacetate (0.002 g, 0.00001 mol) and pyridine (0.019 mL, 0.00024 mol) were added. The reaction was heated in an open tube to 125° C. for 40 minutes, allowed to cool to rt, taken up in ethyl acetate, and washed with water saturated with sodium carbonate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated to give 3-[4-(1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]-benzonitrile (0.025 gm, 92%) as an oily residue, LC/MS (M+H)+: 316.

reactant | 4-(1H-Pyrazol-4-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.000080 mol, 0.025 g | N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C16H22N4OSi
reactant | (3-cyanophenyl)boronic acid | 0.00016 mol, 0.023 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | DMF | 0.0194 mol, 1.50 mL | CN(C)C=O | C3H7NO
reactant | pyridine | 0.00024 mol, 0.019 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(II) diacetate | 0.00001 mol, 0.002 g | C(C)(=O)[O-].C(C)(=O)[O-].[Cu+2]
product | 3-[4-(1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]-benzonitrile | 0.025 gm, 92% | C[Si](CCOCN1C=CC=2C1=NC=CC2C=2C=NN(C2)C=2C=C(C#N)C=CC2)(C)C | C23H25N5OSi
